US08314100B2
b) Ethyl N-(6,7-dichloro-2-methoxyquinoxalin-3-yl)carbamate
2-Amino-6,7-dichloro-3-methoxyquinoxaline (1.16 g, 4.75 mmol) and ethyl chloroformate (1.03 g, 9.50 mmol) were dissolved in dichloromethane (50 ml) at room temperature and thereto pyridine (751 mg, 9.50 mmol) was added. The mixture was stirred at room temperature for 24 hours and concentrated under the reduced pressure to remove the solvent, and purified by SiO2 column chromatography. Extraction of the residue with a n-hexane:ethyl acetate (2:1) mixture and concentration gave 1.29 g of the titled compound (yield, 86%).

reactant | 2-Amino-6,7-dichloro-3-methoxyquinoxaline | 4.75 mmol, 1.16 g | NC1=NC2=CC(=C(C=C2N=C1OC)Cl)Cl | C9H7Cl2N3O
reactant | ethyl chloroformate | 9.50 mmol, 1.03 g | ClC(=O)OCC | C3H5ClO2
reactant | pyridine | 9.50 mmol, 751 mg | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | Ethyl N-(6,7-dichloro-2-methoxyquinoxalin-3-yl)carbamate | 1.29 g, 86% | ClC=1C=C2N=C(C(=NC2=CC1Cl)OC)NC(OCC)=O | C12H11Cl2N3O3
